US08212078B2
4,4′-Methylenebis(benzeneamine) (19.8 g, 0.1 mol), methyl ethyl ketone (20.0 g, 0.28 mol), Pt(S)/C (2.0 g), and water (28.0 g; formed a second phase) were charged into reactor. The reactor was purged 3 times with H2 at 22° C. The reaction mixture was then stirred at 800 rpm at 136° C. under H2 for 2.5 hours. GC showed 100% conversion of 4,4′-methylenebis(benzeneamine), and a 96-97% yield of N,N′-di-sec-butyl-4,4′-methylenebis(benzeneamine).

reactant | 4,4′-Methylenebis(benzeneamine) | 0.1 mol, 19.8 g | C(C1=CC=C(C=C1)N)C1=CC=C(C=C1)N | C13H14N2
reactant | methyl ethyl ketone | 0.28 mol, 20.0 g | C(C)C(=O)C | C4H8O
catalyst | Pt(S)/C | 2.0 g | [Pt] | Pt
solvent | water | O | H2O
product | N,N′-di-sec-butyl-4,4′-methylenebis(benzeneamine) | 96-97% yield | C(C)(CC)NC1=CC=C(C=C1)CC1=CC=C(C=C1)NC(C)CC | C21H30N2
